US03998955
55 g of 4-ethoxy-5-n-butyl-2-picoline and 165 ml of benzaldehyde in 181 ml of acetic anhydride are heated for 16 hours under reflux. After cooling, the mixture is evaporated, and the residue is treated with 2 N sodium hydroxide solution and extracted with ether. Distillation of the ether residue in a bulb tube at a temperature of 160°-180° in a high vacuum yields 2-styryl-4-n-propoxy-5-n-butyl-pyridine.

reactant | 4-ethoxy-5-n-butyl-2-picoline | 55 g | C(C)OC1=CC(=NC=C1CCCC)C | C12H19NO
reactant | benzaldehyde | 165 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic anhydride | 181 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-styryl-4-n-propoxy-5-n-butyl-pyridine | C(=CC1=CC=CC=C1)C1=NC=C(C(=C1)OCCC)CCCC | C20H25NO
